US06562828B1
7-(4-Ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester
To a solution of 7-(1-tert-butoxycarbonyl-4-ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester (165 mg) in chloroform (1.5 ml) was added dropwise trifluoroacetic acid (0.5 ml), and the mixture was stirred at room temperature for 1 hour. The solvent was evaporated and aqueous sodium hydrogencarbonate solution was added to the obtained residue. The mixture was extracted with ethyl acetate and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was dried under reduced pressure to give the title compound (135 mg).

reactant | 7-(1-tert-butoxycarbonyl-4-ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester | 165 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C31H40N2O7
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(4-Ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester | 135 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCNCC1)C(=O)OCC | C26H32N2O5
